US07618961B2
Ethyl 2-(2-{[(3-chloro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 3-chloro-2-methylbenzenesulfonyl chloride according to METHOD A at 30° C., using a Quest 210 apparatus. This procedure gave 2.05 g (34%) of an off-white solid: mp 154° C.; MS (Ionspray, [M+H]+) m/z 375; Anal. Calcd (found) for C14H15ClN2O4S2: C, 44.9 (45.0)%, H, 4.0 (3.7)%, N, 7.5 (7.1)%.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | Ethyl 2-(2-{[(3-chloro-2-methylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)acetate | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)C | C14H15ClN2O4S2
